US06706716B2
1-(2-Hydroxyethyl)-4-(2-fluorophenyl)piperazine
A mixture of 1-(2-fluorophenyl)piperazine (0.50 g), 2-iodoethanol (0.48 g), and potassium carbonate (1.5 g) in dimethylformamide (7 mL) was heated at reflux for three hours. The solvent was removed in vacuo and the residue was purified by preparative thin-layer chomatography (silica gel, eluting with chloroform/methanol, 9:1), giving the title compound as a yellow oil (0.41 g, 65%). 1H NMR (300 MHz, CDCl3) δ7.09-6.90 (m, 4H), 3.67 (t, 2H, J=5.4 Hz), 3.13 (t, 4H, J=4.7 Hz), 2.76 (br s, 1H), 2.71 (t, 4H, J=4.8 Hz), 2.63 (t, 4H, J=5.4 Hz). 13C NMR (75 MHz, CDCl3) δ156.3 (d, J=244.1 Hz), 140.6 (d, J=8.8 Hz), 125.1 (d, J=3.4 Hz), 123.2 (d, J=8.1 Hz), 119.5 (d, J=2.9 Hz), 116.7 (d, J=20.6 Hz), 60.1, 58.4, 53.6 (2C), 51.2 (d, 2C, J=3.0 Hz).

reactant | 1-(2-fluorophenyl)piperazine | 0.50 g | FC1=C(C=CC=C1)N1CCNCC1 | C10H13FN2
reactant | 2-iodoethanol | 0.48 g | ICCO | C2H5IO
reactant | potassium carbonate | 1.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 7 mL | CN(C=O)C | C3H7NO
product | 1-(2-Hydroxyethyl)-4-(2-fluorophenyl)piperazine | 0.41 g, 65% | OCCN1CCN(CC1)C1=C(C=CC=C1)F | C12H17FN2O
